US07138414B2
c) 3-(4-amino-3-trifluoromethoxyphenyl)-4H-[1,2,4]-oxadiazol-5-one hydrochloride
The mixture consisting of 200 mg of N-[4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-2-trifluoromethoxyphenyl]acetamide, 10 ml of methanol and 0.5 ml of a 4M solution of hydrochloric acid in dioxane was stirred at room temperature for 15 hours. After concentrating the volatile fractions on a rotary evaporator, a yellowish oil remains.

reactant | N-[4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-2-trifluoromethoxyphenyl]acetamide | 200 mg | O=C1NC(=NO1)C1=CC(=C(C=C1)NC(C)=O)OC(F)(F)F | C11H8F3N3O4
reactant | methanol | 10 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(4-amino-3-trifluoromethoxyphenyl)-4H-[1,2,4]-oxadiazol-5-one hydrochloride | Cl.NC1=C(C=C(C=C1)C1=NOC(N1)=O)OC(F)(F)F | InChI=1S/C9H6F3N3O3.ClH/c10-9(11,12)17-6-3-4(1-2-5(6)13)7-14-8(16)18-15-7;/h1-3H,13H2,(H,14,15,16);1H
